US06897231B2
C. N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3-methylbutanamide
The title compound was prepared according to example Example 329 C using N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3-methylbutanamide hydrochloride (0.400 g, 0.997 mmol), N-amino-2-(dimethylamino)acetamide (0.350 g, 2.99 mmol) and sodium methoxide in methanol (0.348 mL, 4.37 M). The title compound was isolated after purification by preparative HPLC (0.074 g, 18% yield): 1H NMR (CD3OD) δ 8.73 (s, 1H), 8.19 (s, 1H), 8.08 (d, 1H), 7.75 (t, 2H), 7.69 (d, 1H), 7.51 (t, 1H), 3.81 (s, 2H), 2.45 (s, 6H), 2.3 (d, 2H), 2.21 (m, 1H), 1.04 (d, 6H); ES-MS (m/z) 418 [M+H]+.

reactant | N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3-methylbutanamide hydrochloride | 0.997 mmol, 0.400 g | Cl.C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC(C)C)=O
reactant | N-amino-2-(dimethylamino)acetamide | 2.99 mmol, 0.350 g | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4.37 M, 0.348 mL | CO | CH4O
product | N-[3-(5-{5-[(Dimethylamino)methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3-methylbutanamide | CN(C)CC1=NC(=NN1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC(C)C)=O | C23H27N7O
